US04584290
7-[2-Ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[2-(1-methyl-2-pyridinio)thiovinyl]-3-cephem-4-carboxylate hydriodide (syn isomer) (trans isomer) (2.0 g) was dissolved in a saturated aqueous solution of sodium bicarbonate. After being adjusted to pH 5.5 with 10% aqueous hydrochloric acid, the solution was filtered to remove undissolved compound. The filtrate was purified by column chromatography on macroporous non-ionic adsorption resin "Diaion HP-20" and eluted with 30% aqueous solution of isopropyl alcohol. The fractions, containing the desired compound, were combined, concentrated in vacuo and lyophilized to give 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[2-(1-methyl-2-pyridinio)thiovinyl]-3-cephem-4-carboxylate (syn isomer) (trans isomer) (0.8 g).

reactant | 7-[2-Ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[2-(1-methyl-2-pyridinio)thiovinyl]-3-cephem-4-carboxylate hydriodide | 2.0 g | I.C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CS[CH2+]2N(C=CC=C2)C)C(=O)[O-])C1=O)C1=NSC(=N1)N
reactant | hydrochloric acid | Cl | ClH
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-[2-(1-methyl-2-pyridinio)thiovinyl]-3-cephem-4-carboxylate | 0.8 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CS[CH2+]2N(C=CC=C2)C)C(=O)[O-])C1=O)C1=NSC(=N1)N | InChI=1S/C21H24N7O5S3/c1-3-33-25-13(16-24-21(22)36-26-16)17(29)23-14-18(30)28-15(20(31)32)11(10-35-19(14)28)7-9-34-12-6-4-5-8-27(12)2/h4-9,14,19H,3,10,12H2,1-2H3,(H,23,29)(H,31,32)(H2,22,24,26)/q+1/p-1/t14?,19-/m1/s1
